US06432993B1
t-Butyl N-[2-amino-5-(4-phenoxyphenoxy)phenyl]-N-methylcarbamate
In a similar manner to that described in Reference Example 7, a reaction was carried out using t-butyl N-[2-nitro-5-(4-phenoxyphenoxy)phenyl]-N-methylcarbamate (8.6 g), palladium on carbon (10%, 0.6 g) and toluene/methanol=16/3 (190 ml) and the reaction mixture was purified to give the title compound (7.2 g).

reactant | t-butyl N-[2-nitro-5-(4-phenoxyphenoxy)phenyl]-N-methylcarbamate | 8.6 g | [N+](=O)([O-])C1=C(C=C(C=C1)OC1=CC=C(C=C1)OC1=CC=CC=C1)N(C(OC(C)(C)C)=O)C | C24H24N2O6
catalyst | palladium on carbon | 0.6 g | [Pd] | Pd
solvent | toluene methanol | C1(=CC=CC=C1)C.CO
product | t-Butyl N-[2-amino-5-(4-phenoxyphenoxy)phenyl]-N-methylcarbamate | 7.2 g | NC1=C(C=C(C=C1)OC1=CC=C(C=C1)OC1=CC=CC=C1)N(C(OC(C)(C)C)=O)C | C24H26N2O4
